US07598243B2
A mixture of methyl 5-bromo-2-fluorobenzoate (6.5 g, 27.9 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (8.5 g, 33.5 mmol), PdCl2dppf.CH2Cl2 (1.1 g, 1.4 mmol), dppf (0.77 g, 1.4 mol), and KOAc (5.4 g, 55.8 mmol) in DMF (100 mL) was heated to 90° C. for 18 hr. The cooled reaction mixture was diluted with EtOAc (200 mL) and the organic phase was washed with a saturated aqueous NaCl solution (4×). The organic phase was then dried over sodium sulfate and evaporated to dryness. The dark residue was dissolved in CH2Cl2, filtered through a silica gel plug, and washed with CH2Cl2 (500 mL). The filtrate was evaporated to dryness and the residue was purified by column chromatography on silica gel eluting with a gradient of EtOAc and hexane to afford methyl 2-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (5 g) as a green solid.

reactant | methyl 5-bromo-2-fluorobenzoate | 27.9 mmol, 6.5 g | BrC=1C=CC(=C(C(=O)OC)C1)F | C8H6BrFO2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 33.5 mmol, 8.5 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | CH2Cl2 | 1.4 mmol, 1.1 g | C(Cl)Cl | CH2Cl2
reactant | KOAc | 55.8 mmol, 5.4 g | CC(=O)[O-].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | dppf | 1.4 mol, 0.77 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | methyl 2-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 5 g | FC1=C(C(=O)OC)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H18BFO4
